US07662771B2
4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid
Combine 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid methyl ester (2.36 g, 9.1 mmol) with THF (3 mL), EtOH (3 mL) and 2N NaOH (20 mL) and stir until hydrolysis is complete. Concentrate the mixture, dilute the residue with water and adjust the pH to 3.5-4.0 with aq HCl. Extract the mixture with EtOAc and dry the extracts over Na2SO4 before concentrating. Chromatograph the residue over silica gel (MeOH/CH2Cl2) to allow for recovery of 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid (1.63 g, 73%). MS (ES): (M+1)+ 247.1 m/z.

reactant | 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid methyl ester | 9.1 mmol, 2.36 g | COC(CCCC=1OC=C(N1)C1=C(C=CC=C1)N)=O | C14H16N2O3
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | NaOH | 2N, 20 mL | [OH-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid | NC1=C(C=CC=C1)C=1N=C(OC1)CCCC(=O)O | C13H14N2O3
